US04822787
A solution of (2S,4R)-1-t-butoxycarbonyl-4-t-butyl dimethylsilyloxy-2-(methoxycarbonylmethyloxymethyl)pyrrolidine (0.75 g) in methanol (21 ml) was saturated with ammonia at ambient temperature and the solution was stirred at the same temperature for 5 hours. The mixture was concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (15 g) and eluted with a mixture of methanol and chloroform (1:99 V/V) to give (2S,4R)-1-t-butoxycarbonyl-4-t-butyldimethylsilyloxy-2-(carbamoylmethyloxymethyl)pyrrolidine (0.61 g).

reactant | (2S,4R)-1-t-butoxycarbonyl-4-t-butyl dimethylsilyloxy-2-(methoxycarbonylmethyloxymethyl)pyrrolidine | 0.75 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)COCC(=O)OC | C19H37NO6Si
reactant | ammonia | N | H3N
solvent | methanol | 21 ml | CO | CH4O
product | (2S,4R)-1-t-butoxycarbonyl-4-t-butyldimethylsilyloxy-2-(carbamoylmethyloxymethyl)pyrrolidine | 0.61 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)COCC(N)=O | C18H36N2O5Si
